US08685974B2
4-Bromo-3-(5-chloro-2-thienyl)-5-methyl-1H-pyrazole (35.3 mmol) was dissolved in 30 mL dry N,N-dimethylformamide and cooled to 0° C. under nitrogen atmosphere. Sodium hydride (37.1 mmol, 60% dispersion in mineral oil) was added in portions at 0° C. After stirring for 30 min, iodomethane (42.4 mmol) was added dropwise. The reaction mixture was allowed to warm to room temperature and was stirred overnight. The solution was poured into saturated aqueous ammonium chloride solution and extracted with diethyl ether, dried over MgSO4, filtered and evaporated. The crude product was purified by chromatography on silica gel (100% dichloromethane) to afford 5.6 g 4-bromo-3-(5-chloro-2-thienyl)-1,5-dimethyl-1H-pyrazole (54% yield)

reactant | 4-Bromo-3-(5-chloro-2-thienyl)-5-methyl-1H-pyrazole | 35.3 mmol | BrC=1C(=NNC1C)C=1SC(=CC1)Cl | C8H6BrClN2S
reactant | Sodium hydride | 37.1 mmol | [H-].[Na+]
reactant | iodomethane | 42.4 mmol | IC | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 4-bromo-3-(5-chloro-2-thienyl)-1,5-dimethyl-1H-pyrazole | 5.6 g, 54% yield | BrC=1C(=NN(C1C)C)C=1SC(=CC1)Cl | C9H8BrClN2S
